*$
*//-----------------------------------------------------------------------// 
*//   Part No.    : HHXF250ARA471MJC5G
*//   Date        : 2022/09/28
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2022 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------// 

.SUBCKT HHXF250ARA471MJC5G_20deg-C 1 2

C1 4 2 3.18e-04
C2 5 2 6.45e-05
C3 6 2 2.44e-05
R1 3 4 8.13e-03
R2 4 5 3.64e-02
R3 5 6 2.06e+00
L1 1 3 5.20e-09

.ENDS
*$
